US04474990
To a frozen solution of 1.70 g. (0.010 mole) diphenyl ether in 1.30 g. (0.012 mole; a 20 mole % excess) acetic anhydride, was added 3.0 ml anhydrous hydrogen fluoride (50% by weight of reactants). A magnetic stirrer was added and the reaction mixture was stirred magnetically and degassed several times while warming to 24° C. in air, and stirred for 18 hours at 24° C. The resultant red solution was poured into a plastic beaker and allowed to evaporate in an air stream/24° C., leaving a crystalline residue. This was crushed in ca 30 ml ice water, collected by filtration, partly air dried and further dried at 40° C. under a vacuum for about 2 hours, yielding 2.0 g. (94.2%) of nearly colorless crystals with a yellow tinge. Analysis showed only 0.73% unreacted diphenyl ether or 99.25% yield of p-phenoxyacetophenone by gas-liquid chromatography GLC. Thin layer chromatography (TLC) showed a very weak fast moving impurity spot corresponding to diphenyl ether while no trace of a slower moving spot which would correspond to a diacylation product was observed. The product had a melting point of 47°-50° C.

reactant | diphenyl ether | 0.010 mole | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrogen fluoride | 3.0 ml | F | FH
product | p-phenoxyacetophenone | 99.25% yield | O(C1=CC=CC=C1)C1=CC=C(C=C1)C(C)=O | C14H12O2
